US07012075B2
A suspension of 5-chloro-1-phenyl-1H-tetrazole (2.80 g, 15.5 mmol), L-leucine (3.36 g, 25.6 mmol) and potassium carbonate (6.43 g, 46.5 mmol) in isopropanol (20 mL) was heated to reflux for 3 h. The mixture was cooled and partitioned between ethyl acetate and 1 M HCl. The organic phase was washed with brine and concentrated. Purification by flash chromatography on silicic acid (50% ethyl acetate/hexanes) provided 1.57 g of N-(1-phenyl-1H-tetraazol-5-yl)-L-leucine.

reactant | 5-chloro-1-phenyl-1H-tetrazole | 15.5 mmol, 2.80 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | L-leucine | 25.6 mmol, 3.36 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | potassium carbonate | 46.5 mmol, 6.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | N-(1-phenyl-1H-tetraazol-5-yl)-L-leucine | 1.57 g | C1(=CC=CC=C1)N1N=NN=C1N[C@@H](CC(C)C)C(=O)O | C13H17N5O2
